US04826990
1,1,1-Trifluoro-N-[3[(5-methyl-2-phenyl-4-oxazolyl)methyoxy]phenyl]methanesulfonamide
A solution of 8.5 g (0.03 mol) of 3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzenamine and 3.6 g (0.036 mol) of triethylamine in 75 ml of methylene chloride is cooled to -78° C. A solution of 9.2 g (0.033 mol) of trifluoromethanesulfonic anhydride in 80 ml of methylene chloride is added from a dropping funnel and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo and the residue is dissolved in 400 ml of ethyl acetate/400 ml of water. The ethyl acetate layer is dried over anhydrous magnesium sulfate, filtered through Celite and concentrated to obtain 10.0 g of crystals. Recrystallization from ether gives 6.6 g (52%) of crystals, m.p. 157°-159° C.

reactant | 3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzenamine | 0.03 mol, 8.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)N | C17H16N2O2
reactant | triethylamine | 0.036 mol, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.033 mol, 9.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[3[(5-methyl-2-phenyl-4-oxazolyl)methyoxy]phenyl]methanesulfonamide | 10.0 g | FC(S(=O)(=O)NC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)(F)F | C18H15F3N2O4S
